US07320995B2
1-(4-methoxybenzyl)-2-tert-butyldimethylsilyloxymethyl-4-phenyl-5-iodoimidazole
Treat a solution of 1-(4-methoxybenzyl)-2-tert-butyldimethylsilyloxymethyl-4-phenylimidazole (2.08 g, 5.09 mmol) in MeCN (25 mL) with N-iodosuccinimide (NIS) (1.35 g, 6.00 mmol) at room temperature for 24 hours. Dilute the mixture with Et2O (100 mL), wash with saturated NaHCO3 (25 mL), dry (Na2SO4), and concentrate in vacuo. Purify the residue by flash chromatography (SiO2, hexane/EtOAc 20:1→9:1) to provide 2.30 g (85% yield). MS (ES+): m/z 535 (M+H)+

reactant | 1-(4-methoxybenzyl)-2-tert-butyldimethylsilyloxymethyl-4-phenylimidazole | 5.09 mmol, 2.08 g | COC1=CC=C(CN2C(=NC(=C2)C2=CC=CC=C2)CO[Si](C)(C)C(C)(C)C)C=C1 | C24H32N2O2Si
reactant | N-iodosuccinimide | 6.00 mmol, 1.35 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | MeCN | 25 mL | CC#N | C2H3N
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 1-(4-methoxybenzyl)-2-tert-butyldimethylsilyloxymethyl-4-phenyl-5-iodoimidazole | 85% yield | COC1=CC=C(CN2C(=NC(=C2I)C2=CC=CC=C2)CO[Si](C)(C)C(C)(C)C)C=C1 | C24H31IN2O2Si
